US09376382B2
Under ice bath, 100 ml round-bottom flask was added with 60 ml of methanol, and then slowly added with 4 ml of SOCl2 through constant pressure dropping funnel (with a drying tube on the top), and NaOH solution was used to absorb exhaust. After stirring for 1 h, 8 mmol of L-tryptophan was added and stirred at room temperature for 30 min, and then refluxed at 66° C. for 6 h. The reaction was tracked by TLC until the raw material disappears, with a solution of 2% ninhydrin in ethanol as chromogenic reagent. The solvent was evaporated out to obtain L-tryptophan methyl ester hydrochloride. Yield: 100%.

reactant | SOCl2 | 4 ml | O=S(Cl)Cl | Cl2OS
reactant | NaOH | [OH-].[Na+]
reactant | L-tryptophan | 8 mmol | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 60 ml | CO | CH4O
product | L-tryptophan methyl ester hydrochloride | Yield: 100% | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | InChI=1S/C12H14N2O2.ClH/c1-16-12(15)10(13)6-8-7-14-11-5-3-2-4-9(8)11;/h2-5,7,10,14H,6,13H2,1H3;1H/t10-;/m0./s1
